US06656971B2
(Diphenylmethyl)[(4-chloro-3-nitrophenyl)sulfonyl]amine.
To a stirred solution of aminodiphenylmethane (1.9 g, 11 mmol) and 4-chloro-3-nitrobenzenesulfonyl chloride (2.56 g, 10 mmol) in 75 mL of dichloromethane was added triethylamine (2 mL, 14.4 mmol). The solution was stirred for 16 h. The reaction mixture was washed successively with 1M HCl and brine. The organic layer was dried over MgSO4, filtered and evaporated. The resulting yellow solid was recrystallized from ethyl acetate/hexane to give 2.98 g of product in (74%) yield as pale yellow crystals: 1H NMR (400 MHz, CDCl3) δ5.34 (d, 1H, J=7.0 Hz), 5.73 (d, 1H, J=7.0 Hz), 7.11-7.14 (m, 4H), 7.23-7.26 (m, 6H), 7.43 (d, 1H, J=8.5 Hz), 7.67 (dd, 1H, J=2.0, 8.5 Hz), 7.93 (d, 1H, J=2.0 Hz).

reactant | aminodiphenylmethane | 11 mmol, 1.9 g | NC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
reactant | 4-chloro-3-nitrobenzenesulfonyl chloride | 10 mmol, 2.56 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
reactant | triethylamine | 14.4 mmol, 2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | (Diphenylmethyl)[(4-chloro-3-nitrophenyl)sulfonyl]amine | 2.98 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C19H15ClN2O4S
